US07132438B2
To a solution of 1-cyclohexyl-5-piperidin-1-ylmethyl-1H-benzimidazol-2-amine (100 mg, 0.32 mmol, prepared above) and 3-(1-tetrazolyl)-benzoic acid (76 mg, 0.40 mmol) in N,N-dimethylformamide (2 mL) was added 1-hydroxybenzotriazole (57 mg, 0.42 mmol) followed by 1-(3-dimethylaminopropyl)carbodiimide hydrochloride (80 mg, 0.42 mmol). N,N-diisoproplethylamine (100 mg, 0.77 mmol) was then added and the solution was allowed to stir at room temperature. After 18 hr, the reaction mixture was diluted with N,N-dimethylformamide (2 mL) and water (1 mL), filtered, and purified without work-up by preparative scale HPLC. Freeze-drying afforded (N-(1-cyclohexyl-5-piperidin-1-ylmethyl-1H-benzimidazol-2-yl)-3-(1-tetrazolyl) benzamide) as a cream solid (27 mg, 0.056 mmol): 1H NMR (DMSO-d6, 300 MHz) δ 10.20 (s, 1 H,), 9.30 (broad s, 1 H), 8.63 (s, 1 H), 8.34 (d, J=10.0 Hz, 1 H), 8.02 (d, J=10 Hz, 1 H), 7.81–7.64 (m, 2 H), 7.64 (s, 1H), 7.33 (d, J=10.0 Hz, 1 H), 4.83–4.63 (m, 1 H), 4.41–4.29 (m, 2 H), 2.99–1.33 (m, 18 H). MS: API m/z 485 (M+H+)

reactant | 1-cyclohexyl-5-piperidin-1-ylmethyl-1H-benzimidazol-2-amine | 0.32 mmol, 100 mg | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CN2CCCCC2)N | C19H28N4
reactant | 3-(1-tetrazolyl)-benzoic acid | 0.40 mmol, 76 mg | N1(N=NN=C1)C=1C=C(C(=O)O)C=CC1 | C8H6N4O2
reactant | 1-hydroxybenzotriazole | 0.42 mmol, 57 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.42 mmol, 80 mg | Cl.CN(CCCN=C=N)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
product | N-(1-cyclohexyl-5-piperidin-1-ylmethyl-1H-benzimidazol-2-yl)-3-(1-tetrazolyl) benzamide | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CN2CCCCC2)NC(C2=CC(=CC=C2)N2N=NN=C2)=O | C27H32N8O
